US09023847B2
52. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-trifluoromethyl-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 4-(trifluoromethyl)benzaldehyde lidine instead of 4-methoxy benzaldehyde. LCMS (ESI) 460 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.25 (1H, s) 8.05 (1H, t, J=5.66 Hz) 8.01 (1H, d, J=5.47 Hz) 7.77 (1H, d, J=5.27 Hz) 7.58-7.64 (2H, m) 7.50-7.55 (2H, m) 7.46 (1H, d, J=5.42 Hz) 7.30 (1H, d, J=3.17 Hz) 6.79 (1H, d, J=5.52 Hz) 6.43 (1H, dd, J=3.44, 1.93 Hz) 3.77 (2H, s) 3.35 (2H, q, J=6.23 Hz) 2.63 (2H, t, J=6.52 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 4-(trifluoromethyl)benzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 4-methoxy benzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-trifluoromethyl-benzylamino)-ethyl]-amide | FC(C1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1)(F)F | C22H20F3N5OS
